US04636574
A mixture of one molar proportion of 2-ethylaniline (EA) and 11.8 molar proportions of carbon disulfide in 4.3 molar proportions of ethanol was refluxed for about 16 hours, after which GC analysis showed that only a trace of the desired 2-ethylphenylisothiocyanate (EPI) had been formed to provide an EA/EPI area % ratio of 25/1.

reactant | 2-ethylaniline | C(C)C1=C(N)C=CC=C1 | C8H11N
reactant | carbon disulfide | C(=S)=S | CS2
reactant | 2-ethylphenylisothiocyanate | C(C)C1=C(C=CC=C1)N=C=S | C9H9NS
solvent | ethanol | C(C)O | C2H6O
product | EA EPI | C(C)C1=C(N)C=CC=C1.C(C)C1=C(C=CC=C1)N=C=S | InChI=1S/C9H9NS.C8H11N/c1-2-8-5-3-4-6-9(8)10-7-11;1-2-7-5-3-4-6-8(7)9/h3-6H,2H2,1H3;3-6H,2,9H2,1H3
